US08076478B2
(2) Synthesis of N,N,N′,N′-tetrakis(3-aminopropyl)-3,9-bis(aminopropyl)-2,4,8,10-tetraoxaspiro[5.5]undecane
5.00 g of N,N,N′,N′-tetrakis(2-cyanoethyl)-3,9-bis(aminopropyl)-2,4,8,10-tetraoxaspiro[5.5]undecane, 0.50 g of Raney Co and 50 mL of 1,4-dioxane were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 8.0 MPa at 180° C. for 2 hours. After the catalyst was removed by filtration, the obtained filtrate was concentrated to dryness to give 5.01 g of the title compound as a pale red oil.

reactant | N,N,N′,N′-tetrakis(2-cyanoethyl)-3,9-bis(aminopropyl)-2,4,8,10-tetraoxaspiro[5.5]undecane | 5.00 g | C(#N)CCN(CCC#N)CCCC1OCC2(CO1)COC(OC2)CCCN(CCC#N)CCC#N | C25H38N6O4
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N,N,N′,N′-tetrakis(3-aminopropyl)-3,9-bis(aminopropyl)-2,4,8,10-tetraoxaspiro[5.5]undecane | 5.01 g | NCCCN(CCCN)CCCC1OCC2(CO1)COC(OC2)CCCN(CCCN)CCCN | C25H54N6O4
